US04059697
Preparation of N-(2-chloroethyl) N'-(4-chloro2-methylphenyl)urea
A solution of 2-chloroethyl isocyanate, 28.3 g. (0.27 mole) in 100 ml. of ether is added dropwise to a solution of 4-chloro-2-methylaniline, 38.0 g. (0.27 mole), in 500 ml. of ether. The solution is stirred 16 hours at room temperature, and the solid product is filtered and air dried, giving 47.2 g. (71% of theory) of the desired product, m.p. 190°.

reactant | 2-chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
reactant | 4-chloro-2-methylaniline | ClC1=CC(=C(N)C=C1)C | C7H8ClN
solvent | ether | CCOCC | C4H10O
product | N-(2-chloroethyl) N'-(4-chloro2-methylphenyl)urea | ClCCNC(=O)NC1=C(C=C(C=C1)Cl)C | C10H12Cl2N2O
